US08349865B2
Step 3: 5-[(2,6-Dichloro-4-fluorophenyl)amino]-9-morpholin-4-ylbenzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 5-((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-9-morpholin-4-yl-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one (58 mg, 0.08 mmol) in dichloromethane (3 mL) was added TFA (2 ml) and the mixture was stirred at room temperature for 2.5 h. The solvents were evaporated and the residue was dissolved in MeOH, filtered and purified by reverse phase HPLC to afford the title compound.

reactant | 5-((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-9-morpholin-4-yl-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one | 0.08 mmol, 58 mg | ClC1=C(C(=CC(=C1)F)Cl)N(C1=NC2=C(C=3C(N(C=CC13)COCC[Si](C)(C)C)=O)C=C(C=C2)N2CCOCC2)COCC[Si](C)(C)C | C34H45Cl2FN4O4Si2
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-[(2,6-Dichloro-4-fluorophenyl)amino]-9-morpholin-4-ylbenzo[c]-2,6-naphthyridin-1(2H)-one | ClC1=C(C(=CC(=C1)F)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)N2CCOCC2 | C22H17Cl2FN4O2
